US04578398
(d) Preparation of 2-Carbomethoxymethyl-5-ethenyl-2-ethylcyclohexanone (XI, R=--CH=CH2)
The enone, 6-carbomethoxymethyl-6-ethyl-2-cyclohexen-1-one, prepared by the process of Step (c) (58.1 mmol, 11.4 g), 5.81 mmol (1.194 g) of CuBr.Me2S and 11.7 ml of Me2S were stirred in 176 ml of THF at -40° C. under nitrogen and treated with 58.1 mmol (58.1 ml of 1M solution in THF) of vinylmagnesium bromide added dropwise over 45 minutes. The reaction was then quenched with 200 ml of 1M HCl (aq.) and extracted with 5×100 ml of petroleum ether. Drying (MgSO4) and flash chromatography afforded 8.96 g (39.9 mmol, 69% pale yellow oil) of product as a mixture of diastereomers. The diastereomers (56:44 ratio) were separated by preparative HPLC on a Prep 500A using a brand of silica gel available from Waters Associates, Milford, Ma., and designated "more polar isomer" and "less polar isomer."

reactant | 6-carbomethoxymethyl-6-ethyl-2-cyclohexen-1-one | C(=O)(OC)CC1(CCC=CC1=O)CC | C11H16O3
reactant | Me2S | S(C)C | C2H6S
reactant | Me2S | 11.7 ml | S(C)C | C2H6S
reactant | vinylmagnesium bromide | 58.1 mmol, 1M, 58.1 ml | C(=C)[Mg]Br
solvent | THF | 176 ml | C1CCOC1 | C4H8O
product | 2-Carbomethoxymethyl-5-ethenyl-2-ethylcyclohexanone | 39.9 mmol, 69% | C(=O)(OC)CC1(C(CC(CC1)C=C)=O)CC | C13H20O3
